US08633186B2
(S)-tert-Butyl 2-((2-cyano-3-nitrophenoxy)methyl)pyrrolidine-1-carboxylate
Prepared as in Example 166d from 2,6-dinitrobenzonitrile and (S)-tert-butyl 2-(hydroxymethyl)pyrrolidine-1-carboxylate in 89% yield as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ 1.40 (s, 9H), 1.81 (m, 1H), 2.03 (m, 3H), 3.32 (m, 2H), 4.08 (m, 1H), 4.33 (m, 2H), 7.79 (d, J=7.8 Hz, 1H), 7.93 (m, 2H).

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | (S)-tert-butyl 2-(hydroxymethyl)pyrrolidine-1-carboxylate | OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
product | (S)-tert-Butyl 2-((2-cyano-3-nitrophenoxy)methyl)pyrrolidine-1-carboxylate | 89% yield | C(#N)C1=C(OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C=CC=C1[N+](=O)[O-] | C17H21N3O5
